US06906067B2
4-Azido-2-methyl-pyrrolidine-1-carboxylic acid t-butyl ester
The 4-methanesulfonyloxy-2-methyl-pyrrolidine-1-carboxylic acid t-butyl ester (135.21 mg, 0.48 mmol) was taken up in dry DMF under argon and sodium azide (156.00 mg, 2.40 mmol) was added. The reaction was then heated to 60° C. for 48 h. The reaction was poured into water and the aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with sat NaHCO3 and brine then dried over MgSO4. The solution was filtered and the solvent removed under reduced pressure. The product was isolated by flash chromatography. (5:1 hexane-ethyl acetate) Yield 93.41 mg.

reactant | 4-methanesulfonyloxy-2-methyl-pyrrolidine-1-carboxylic acid t-butyl ester | 0.48 mmol, 135.21 mg | C(C)(C)(C)OC(=O)N1C(CC(C1)OS(=O)(=O)C)C | C11H21NO5S
reactant | sodium azide | 2.40 mmol, 156.00 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-Azido-2-methyl-pyrrolidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C(CC(C1)N=[N+]=[N-])C | C10H18N4O2
